US05358950
24.5 g of 2-(4-methylphenyl)-3-cyanothiophene, prepared in E), are dissolved in 200 ml of carbon tetrachloride. 21.9 g of N-bromosuccinimide are added, as well as 0.1 g of benzoyl peroxide. The mixture is heated to reflux for 24 hours. The crystals of succinimide are filtered off and the solvent is evaporated off under vacuum. The residue is taken up in a mixture of hexane and ethyl acetate and the solution is kept in a freezer for 24 hours. The crystals formed are drained to give 14 g of 4-(3-cyano-2-thienyl)benzyl bromide in the form of crystals of melting point 80° C.

reactant | 2-(4-methylphenyl)-3-cyanothiophene | 24.5 g | CC1=CC=C(C=C1)C=1SC=CC1C#N | C12H9NS
reactant | N-bromosuccinimide | 21.9 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 4-(3-cyano-2-thienyl)benzyl bromide | 14 g | C(#N)C1=C(SC=C1)C1=CC=C(CBr)C=C1 | C12H8BrNS
